US07939528B2
To a mixture of 3,3-dimethylcyclohexanone (4.0 g, 0.032 mol) and hydroxylamine hydrochloride (2.9 g, 0.041 mol) in ethanol (20 mL) was added dropwise a solution of sodium carbonate (4.3 g, 0.041 mol) in water (25 mL). The mixture was heated at reflux for 3 hours. The mixture was concentrated in vacuo to remove the ethanol and the aqueous residue was extracted with ethyl acetate. The organic phase was dried (MgSO4), filtered and concentrated in vacuo to give 3,3-dimethylcyclohexanone oxime as a yellow oil. This material was used without further purification.

reactant | 3,3-dimethylcyclohexanone | 0.032 mol, 4.0 g | CC1(CC(CCC1)=O)C | C8H14O
reactant | hydroxylamine hydrochloride | 0.041 mol, 2.9 g | Cl.NO
reactant | sodium carbonate | 0.041 mol, 4.3 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | water | 25 mL | O | H2O
product | 3,3-dimethylcyclohexanone oxime | CC1(CC(CCC1)=NO)C | C8H15NO
